US05763474
This compound was prepared in a procedure similar to the one described in Example 4. From 3-ethoxy-4-tert-butylamino-cyclobut-3-ene-1,2-dione (0.22 g, 1.1 mmol) and 2,4-dichloro-6-methylbenzylamine (0.22 g, 1.2 mmol, containing approximately 5% of a compound which is regioisomeric with respect to the substitution on the aryl ring) in absolute ethanol (5.5 mL) there was obtained 0.34 g (89%) of 3-tert-butylamino-4-(2,4-dichloro-6-methyl-benzylamino)-cyclobut-3-ene-1,2-dione as a white solid, which contains approximately 5% of a compound which is regioisomeric with respect to substitution on the aryl ring: mp 264°-268° C.; 1H NMR (DMSO-d6) δ 7.54 (d, 1H), 7.46 (s, 1H), 7.43 (br t, 1H), 7.39 (d, 1H), 4.89 (d, 2H), 4.72 (d, minor isomer), 2.40 (s, 3H), 2.31 (s, minor isomer), 1.34 (s, 9H) ppm. IR (KBr): 3200, 2950, 1800, 1650 cm-1 ; MS (m/z) 340/342/344 (M+).

reactant | 3-ethoxy-4-tert-butylamino-cyclobut-3-ene-1,2-dione | 1.1 mmol, 0.22 g | C(C)OC=1C(C(C1NC(C)(C)C)=O)=O | C10H15NO3
reactant | 2,4-dichloro-6-methylbenzylamine | ClC1=C(CN)C(=CC(=C1)Cl)C | C8H9Cl2N
solvent | ethanol | 5.5 mL | C(C)O | C2H6O
product | 3-tert-butylamino-4-(2,4-dichloro-6-methyl-benzylamino)-cyclobut-3-ene-1,2-dione | 0.34 g, 89% | C(C)(C)(C)NC=1C(C(C1NCC1=C(C=C(C=C1C)Cl)Cl)=O)=O | C16H18Cl2N2O2
